US05900485
1-(3-Chloropropyl)-4-(3-chlorophenyl)piperazine hydrochloride (20.0 g, 0.065 mol) is suspended in isopropanol (65 ml) and anhydrous hydrazine (31.7 g, 0.988 mol) is added. The reaction mixture is heated at 70-80° C. for 2.5 hours and cooled to room temperature. The upper layer is separated and concentrated under reduced pressure. The residue is dissolved in isopropanol (50 ml) and the upper layer is separated, dried (Na2SO4), and concentrated to yield 16.5 g (94.5% yield) of 1-(3-chlorophenyl)-4-(3-hydrazinopropyl)piperazine (85% pure) as a viscous oil. The product is used directly without further purification or stored at room temperature in toluene or isopropanol solution by adding 1% MgO.

reactant | 1-(3-Chloropropyl)-4-(3-chlorophenyl)piperazine hydrochloride | 0.065 mol, 20.0 g | Cl.ClCCCN1CCN(CC1)C1=CC(=CC=C1)Cl
reactant | hydrazine | 0.988 mol, 31.7 g | NN | H4N2
solvent | isopropanol | 65 ml | C(C)(C)O | C3H8O
product | 1-(3-chlorophenyl)-4-(3-hydrazinopropyl)piperazine | 16.5 g, 94.5% yield | ClC=1C=C(C=CC1)N1CCN(CC1)CCCNN | C13H21ClN4
